US05521196
A mixture of 3.26 gm (14 mMol) 5-chloro-3-(4-piperidinyl)-1H-indole, 2.03 gm (14 mMol) 3-(1H-pyrazol-3-yl)-1-chloropropane and 3.71 gm (35 mMol) sodium carbonate in 76 mL dimethylformamide was heated at 100° C. for 18 hours. The reaction mixture was cooled to ambient and the solvent removed under reduced pressure. The residue was partitioned between water and dichloromethane, then the phases were separated. The organic phase was washed with water followed by saturated aqueous sodium chloride and the remaining organics were dried over sodium sulfate. The dichloromethane was removed under reduced pressure and the residual yellow oil subjected to flash silica gel chromatography, eluting with a gradient system of dichloromethane containing 0-10% methanol. Fractions shown to contain product were concentrated under reduced pressure to give 1.72 gm (35.9%) 5-chloro-3-<1-<3-<1H-pyrazol-4-yl>propyl>-4-piperidinyl>-1H-indole as a colorless foam. The oxalate salt was formed to give the title compound as a light yellow foam. m.p.=110° C. MS(m/e): 343(M+) Calculated for C19H32N4Cl·C2H2O4 : Theory: C, 58.27; H, 5.82; N, 12.94. Found: C, 58.07; H, 5.97; N, 12.88.

reactant | 5-chloro-3-(4-piperidinyl)-1H-indole | 14 mMol, 3.26 gm | ClC=1C=C2C(=CNC2=CC1)C1CCNCC1 | C13H15ClN2
reactant | 3-(1H-pyrazol-3-yl)-1-chloropropane | 14 mMol, 2.03 gm | N1N=C(C=C1)CCCCl | C6H9ClN2
reactant | sodium carbonate | 35 mMol, 3.71 gm | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 76 mL | CN(C=O)C | C3H7NO
product | 1H-indole | N1C=CC2=CC=CC=C12 | C8H7N
